US09340520B2
Piperidin-1-amine (754 mL, 6.99 mol) was added dropwise over 60 min to acetaldehyde maintained at a 0° C. (304 mL, 5.38 mol) while stirring under nitrogen. [Caution: The addition is exothermic. On this scale, the dropping funnel containing piperidin-1-amine became hot due to acetaldehyde that had vaporized and condensed in the dropping funnel]. After 1 h at 0° C. and 1 h at rt, the reaction flask was equipped with a 16-in reflux condenser and was warmed to 40° C. and stirred for 20 h. The reaction mixture was cooled to RT and partitioned between diethyl ether (700 mL) and brine (300 mL). The organic layer was washed with water and the aqueous layer was extracted with diethyl ether (2×500 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered, concentrated and dried under high vacuum for 8 h to afford (E)-N-ethylidenepiperidin-1-amine (772 g) (contained impurities) as a yellow oil. The analytical data complied with data reported in the literature. The material was used without additional purification.

reactant | Piperidin-1-amine | 6.99 mol, 754 mL | N1(CCCCC1)N | C5H12N2
reactant | acetaldehyde | C(C)=O | C2H4O
product | (E)-N-ethylidenepiperidin-1-amine | 772 g | C(/C)=N\N1CCCCC1 | C7H14N2
